### PR TITLE
[Merged by Bors] - feat(LinearAlgebra): lemmas for vanishing of exteriorPower

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
For a module generated by `n` elements, exterior power of order greater than `n` vanishes.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/ExteriorPower/Basic.lean [hunk 1]
```diff
@@ -406,6 +406,32 @@ lemma ιMulti_family_span {I : Type*} [LinearOrder I] (v : I → M) :
...
+    Subsingleton (⋀[R]^i M) := by
+  let : Fintype ι := Fintype.ofFinite ι
+  have hcard : Fintype.card ι < i := by simpa [Nat.card_eq_fintype_card] using hi
+  have hbotTop : (⊥ : Submodule R (⋀[R]^i M)) = ⊤ := by
+    rw [← exteriorPower.span_ιMulti_orderEmbedding_of_span_eq_top (R := R) (M := M) hg i]
+    convert Submodule.span_empty.symm
+    refine Set.range_eq_empty_iff.mpr ⟨fun f ↦ ?_⟩
+    absurd hcard
+    simpa using Fintype.card_le_of_injective f f.injective
+  exact (Submodule.subsingleton_iff R).mp <| (subsingleton_iff_bot_eq_top).mp hbotTop
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ExteriorPower/Basic.lean]: I think the first lemma `span_ιMulti_orderEmbedding_of_span_eq_top` is not a good API lemma as it takes an unnecessary detour via `Fin n ↪o ι` and we should guide users to stay with the intended design which is to use `Set.powersetCard` when working with `ιMulti_family`.

With this in mind, the second lemma can be reproved as follows:
```suggestion
lemma subsingleton_of_span_eq_top_of_card_lt {ι : Type*} [Finite ι] [LinearOrder ι] (g : ι → M)
    (hg : Submodule.span R (range g) = ⊤) (i : ℕ) (hi : Nat.card ι < i) :
    Subsingleton (⋀[R]^i M) := by
  replace hi : range (ιMulti_family R i g) = ∅ := by
    rw [range_eq_empty_iff, powersetCard.eq_empty_iff.mpr hi, isEmpty_coe_sort]
  suffices (⊥ : Submodule R (⋀[R]^i M)) = ⊤ by
    rwa [subsingleton_iff_bot_eq_top, Submodule.subsingleton_iff] at this
  rw [← ιMulti_family_span_of_span R hg, hi, Submodule.span_empty]
```

**Review by ocfnash — COMMENTED** [review]
Thanks!

**Comment by ocfnash** [comment]
The CI failure looks spurious so

bors merge
